US07807709B2
a. 4-Ethyl-3-(3-trifluoromethoxy-propoxy)-benzoic acid methyl ester
A mixture of 4-ethyl-3-hydroxy-benzoic acid methyl ester (250 mg, 1.32 mmol), crude trifluoro-methanesulfonic acid 3-trifluoromethoxy-propyl ester (590 mg, 1.58 mmol; purity of 74%) and anhydrous K2CO3 (276 mg, 1.98 mmol) in MeCN (2.0 mL) is stirred in a sealed glass vial overnight at room temperature. The crude product obtained after filtration and evaporation is purified by flash chromatography (hexane/AcOEt 1:1) to give the title compound as oil. TLC, Rf (hexane/AcOEt 3:1)=0.38. 1H-NMR (CDCl3): δ 1.24 (t, 3H), 2.25 (m, 2H), 2.70 (q, 2H), 3.94 (s, 3H), 4.18 (t, 2H), 4.24 (t, 2H), 7.25 (d, 1H), 7.52 (s, 1H), 7.64 (d, 1H) ppm. 19F-NMR (CDCl3): δ −61.1 ppm.

reactant | 4-ethyl-3-hydroxy-benzoic acid methyl ester | 1.32 mmol, 250 mg | COC(C1=CC(=C(C=C1)CC)O)=O | C10H12O3
reactant | trifluoro-methanesulfonic acid 3-trifluoromethoxy-propyl ester | 1.58 mmol, 590 mg | FC(OCCCOS(=O)(=O)C(F)(F)F)(F)F | C5H6F6O4S
reactant | K2CO3 | 1.98 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2.0 mL | CC#N | C2H3N
product | 4-Ethyl-3-(3-trifluoromethoxy-propoxy)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CC)OCCCOC(F)(F)F)=O | C14H17F3O4
